### PR TITLE
[Merged by Bors] - feat(GroupTheory/IndexNormal): the index of the normal core is bounded by the factorial of the index

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
Also golf `normalCore_eq_ker`.
Two theorems had to be additivized manually because `MulAction.toPermHom` and `AddAction.toPermHom` aren't `to_additive` of each other.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/IndexNormal.lean [hunk 1]
```diff
@@ -69,4 +71,27 @@ theorem normal_of_index_eq_minFac_card (hHp : H.index = (Nat.card G).minFac) :
...
+    (H : AddSubgroup G) [H.FiniteIndex] : H.normalCore.index ∣ H.index.factorial := by
+  have := QuotientAddGroup.quotientKerEquivRange (AddAction.toPermHom G (G ⧸ H))
+  rw [AddSubgroup.index, H.normalCore_eq_ker, Nat.card_congr this.toEquiv, AddSubgroup.index,
+    ← Nat.card_perm]
+  apply AddSubgroup.card_addSubgroup_dvd_card
+
+variable (H) in
+@[to_additive existing]
+theorem index_normalCore_dvd_factorial_index [H.FiniteIndex] :
+    H.normalCore.index ∣ H.index.factorial := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/IndexNormal.lean:84]: Should this be linked up with `finiteIndex_normalCore` at all?

File: Mathlib/GroupTheory/IndexNormal.lean [hunk 2]
```diff
@@ -69,4 +71,27 @@ theorem normal_of_index_eq_minFac_card (hHp : H.index = (Nat.card G).minFac) :
...
+  rw [index, H.normalCore_eq_ker, Nat.card_congr this.toEquiv, index, ← Nat.card_perm]
+  apply card_subgroup_dvd_card
+
+variable (H) in
+@[to_additive]
+theorem index_normalCore_le_factorial_index : H.normalCore.index ≤ H.index.factorial := by
+  by_cases h : H.FiniteIndex
+  · exact Nat.le_of_dvd H.index.factorial_pos H.index_normalCore_dvd_factorial_index
+  have := H.normalCore.not_finiteIndex_iff.mp fun _ ↦ h <| finiteIndex_of_le H.normalCore_le
+  simp [this]
```
Comment (tb65536) [inline Mathlib/GroupTheory/IndexNormal.lean:95]: Might be slightly easier to do cases on `H.normalCore.FiniteIndex`?

File: Mathlib/GroupTheory/IndexNormal.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/GroupTheory/IndexNormal.lean]: They're very related but the current proof of `finiteIndex_normalCore`  seems pretty elegant; do you have suggestions?
I think it uses the bound `H.index ^ H.index`, and this PR improves the bound.

Comment (tb65536) [reply Mathlib/GroupTheory/IndexNormal.lean]: Ah sure, maybe there's no advantage here.

File: Mathlib/GroupTheory/IndexNormal.lean [hunk 3]
```diff
@@ -69,4 +71,27 @@ theorem normal_of_index_eq_minFac_card (hHp : H.index = (Nat.card G).minFac) :
     hHp ▸ minFac_le_of_dvd (Nat.minFac_prime hr1).two_le
       (dvd_trans (minFac_dvd H.normalCore.index) (H.normalCore.index_dvd_card))
 
+theorem _root_.AddSubgroup.index_normalCore_dvd_factorial_index {G : Type*} [AddGroup G]
+    (H : AddSubgroup G) [H.FiniteIndex] : H.normalCore.index ∣ H.index ! := by
+  have := QuotientAddGroup.quotientKerEquivRange (AddAction.toPermHom G (G ⧸ H))
+  rw [AddSubgroup.index, H.normalCore_eq_ker, card_congr this.toEquiv, AddSubgroup.index,
+    ← card_perm]
```
Comment (tb65536) [inline Mathlib/GroupTheory/IndexNormal.lean]:
```suggestion
  rw [H.normalCore_eq_ker, AddSubgroup.index_ker, AddSubgroup.index, ← card_perm]
```

File: Mathlib/GroupTheory/IndexNormal.lean [hunk 4]
```diff
@@ -69,4 +71,27 @@ theorem normal_of_index_eq_minFac_card (hHp : H.index = (Nat.card G).minFac) :
...
+  apply AddSubgroup.card_addSubgroup_dvd_card
+
+variable (H) in
+@[to_additive existing]
+theorem index_normalCore_dvd_factorial_index [H.FiniteIndex] :
+    H.normalCore.index ∣ H.index ! := by
+  have := QuotientGroup.quotientKerEquivRange <| toPermHom G (G ⧸ H)
+  rw [index, H.normalCore_eq_ker, card_congr this.toEquiv, index, ← card_perm]
```
Comment (tb65536) [inline Mathlib/GroupTheory/IndexNormal.lean]:
```suggestion
  rw [normalCore_eq_ker, index_ker, index, ← card_perm]
```

File: Mathlib/GroupTheory/IndexNormal.lean [hunk 5]
```diff
@@ -69,4 +71,27 @@ theorem normal_of_index_eq_minFac_card (hHp : H.index = (Nat.card G).minFac) :
...
+  apply card_subgroup_dvd_card
+
+variable (H) in
+@[to_additive]
+theorem index_normalCore_le_factorial_index : H.normalCore.index ≤ H.index ! := by
+  by_cases! h : ¬H.normalCore.FiniteIndex
+  · simp [not_finiteIndex_iff.mp h]
+  have : H.FiniteIndex := finiteIndex_of_le H.normalCore_le
+  exact le_of_dvd H.index.factorial_pos H.index_normalCore_dvd_factorial_index
```
Comment (tb65536) [inline Mathlib/GroupTheory/IndexNormal.lean]: Personally, I would just do them in the standard order:
```suggestion
  by_cases h : H.normalCore.FiniteIndex
  · have : H.FiniteIndex := finiteIndex_of_le H.normalCore_le
    exact le_of_dvd H.index.factorial_pos H.index_normalCore_dvd_factorial_index
  · simp [not_finiteIndex_iff.mp h]
```

File: Mathlib/GroupTheory/IndexNormal.lean [hunk 6]
```diff
@@ -69,4 +71,27 @@ theorem normal_of_index_eq_minFac_card (hHp : H.index = (Nat.card G).minFac) :
...
+theorem _root_.AddSubgroup.index_normalCore_dvd_factorial_index {G : Type*} [AddGroup G]
+    (H : AddSubgroup G) [H.FiniteIndex] : H.normalCore.index ∣ H.index ! := by
+  have := QuotientAddGroup.quotientKerEquivRange (AddAction.toPermHom G (G ⧸ H))
+  rw [AddSubgroup.index, H.normalCore_eq_ker, card_congr this.toEquiv, AddSubgroup.index,
+    ← card_perm]
+  apply AddSubgroup.card_addSubgroup_dvd_card
+
+variable (H) in
+@[to_additive existing]
+theorem index_normalCore_dvd_factorial_index [H.FiniteIndex] :
```
Comment (tb65536) [inline Mathlib/GroupTheory/IndexNormal.lean:81]: There is a potentially wacky idea of assuming `[H.normalClosure.FiniteIndex]` which would make the theorem "more general" from the perspective of typeclass inference. This would shave a line off of the final proof. But maybe it's a bit too silly.

**Review by tb65536 — APPROVED** [review]

File: Mathlib/GroupTheory/IndexNormal.lean (hunk 5 above)
Comment (SnirBroshi) [reply Mathlib/GroupTheory/IndexNormal.lean]: I like doing the uninteresting edge case first and keeping the main proof unindented, as in [programming](https://en.wikipedia.org/wiki/Guard_(computer_science))

Comment (tb65536) [reply Mathlib/GroupTheory/IndexNormal.lean]: Then maybe `swap` would be more idiomatic than doing cases on the negation?

Comment (tb65536) [reply Mathlib/GroupTheory/IndexNormal.lean]: (I have seen that pattern, but usually when the second branch is much shorter than the first branch, which isn't really the case here)

Comment (SnirBroshi) [reply Mathlib/GroupTheory/IndexNormal.lean]: > which isn't really the case here

IMO it is, but I don't mind that much, applied the suggestion

File: Mathlib/GroupTheory/IndexNormal.lean (hunk 6 above)
Comment (SnirBroshi) [reply Mathlib/GroupTheory/IndexNormal.lean:81]: Won't that add the `have` to this proof instead? (which would be 2 `have`s, since the additive version is written explicitly)

Comment (tb65536) [reply Mathlib/GroupTheory/IndexNormal.lean:81]: Yeah, it wouldn't reduce the overall line count.

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
